US04237067
59 g of β-hydroxypropionamide and 75 g of benzylamine were heated with 50 mg of 2,6-di-t-butyl-p-cresol for 7 hours in a temperature range of 120°-170° C. until the evolution of ammonia was complete. After adding 2.2 g of polyphosphoric acid distillation was carried out in an oil pump vacuum; the subsequent redistillation with the addition of 1 ml of sulphuric acid yielded 92 g of N-benzylacrylamide, Bp0.1 113° C., which crystallized in the receiver. Mp (crude product): 53° C.

reactant | β-hydroxypropionamide | 59 g | OCCC(=O)N | C3H7NO2
reactant | benzylamine | 75 g | C(C1=CC=CC=C1)N | C7H9N
reactant | ammonia | N | H3N
catalyst | 2,6-di-t-butyl-p-cresol | 50 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
product | N-benzylacrylamide | 92 g | C(C1=CC=CC=C1)NC(C=C)=O | C10H11NO
